US08871756B2
tert-Butyl {trans-1-[6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-4-yl]-4-hydroxypyrrolidin-3-yl}carboxylate
A mixture of 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide (200 mg, 0.56 mmol, prepared in analogy to the one in Example 18-1), tert-butyl [trans-4-hydroxypyrrolidin-3-yl]carbamate (125 mg, 0.62 mmol), tris(2-benzylidene acetone) palladium(II) (50 mg, 0.055 mmol), 2-dicyclohexylphosphino-2-(N,N-dimethylamino)biphenyl (30 mg, 0.076 mmol), sodium tert-butoxide (60 mg, 0.625 mmol) and 1,4-dioxane (3 mL) in a 2-5 mL of process vial was heated at 120° C. under microwave irradiation for 2 hours. After being cooled to room temperature, the mixture was filtered and washed with ethyl acetate. The filtrate was washed with brine, dried over sodium sulfate, and concentrated in vacuo. The residue was purified by flash column chromatography (eluting with 10% methanol in dichloromethane) to afford 230 mg of the product as a white solid (yield was 80%).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)=O | C19H17ClN2OS
reactant | tert-butyl [trans-4-hydroxypyrrolidin-3-yl]carbamate | 0.62 mmol, 125 mg | O[C@H]1[C@@H](CNC1)NC(OC(C)(C)C)=O | C9H18N2O3
reactant | 2-dicyclohexylphosphino-2-(N,N-dimethylamino)biphenyl | 0.076 mmol, 30 mg | C1(CCCCC1)P(C1(C(=CC=CC1)C1=CC=CC=C1)N(C)C)C1CCCCC1 | C26H38NP
reactant | sodium tert-butoxide | 0.625 mmol, 60 mg | CC(C)([O-])C.[Na+]
reactant | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl {trans-1-[6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-4-yl]-4-hydroxypyrrolidin-3-yl}carboxylate | 230 mg, yield was 80% | CC=1C=C2C(=CC(=NC2=CC1)N1CCS(C2=C(C1)C=CC=C2)=O)N2C[C@H]([C@@H](C2)O)C(=O)OC(C)(C)C | C28H33N3O4S
